US04820834
N-(5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-N'-(3-methoxyphenyl)-urea
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one and 3-methoxyphenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 271°-273° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)C)=O | C16H14FN3O
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-N'-(3-methoxyphenyl)-urea | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)OC | C24H21FN4O3
